.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.param slew=10p
.param Cload=0.5f

.subckt project1_bufferckt vdd vss int in out
X0 vss in int vss sky130_fd_pr__nfet_01v8 ad=0.0798 pd=0.8 as=0.1596 ps=1.6 w=0.42 l=0.15
**devattr s=6384,320 d=3192,160
X1 vdd in int vdd sky130_fd_pr__pfet_01v8 ad=0.2337 pd=1.61 as=0.4674 ps=3.22 w=1.23 l=0.15
**devattr s=18696,644 d=9348,322
X2 out int vss vss sky130_fd_pr__nfet_01v8 ad=0.2394 pd=1.98 as=0.0798 ps=0.8 w=0.42 l=0.15
**devattr s=3192,160 d=9576,396
X3 out int vdd vdd sky130_fd_pr__pfet_01v8 ad=0.6396 pd=3.5 as=0.2337 ps=1.61 w=1.23 l=0.15
**devattr s=9348,322 d=25584,700
C0 in vdd 0.0671f
C1 out vdd 0.06999f
C2 out in 0.0041f
C3 int vdd 0.11573f
C4 in int 0.14349f
C5 out int 0.08094f
C6 out vss 0.37429f
C7 vdd vss 0.76028f
.ends

Vdd vdd 0 1.8
Xbuf vdd 0 int in out project1_bufferckt
Cload out 0 {Cload}

Vin in 0 PULSE(0 1.8 1n {slew} {slew} 2n 4n)

.control

alterparam slew=10p
alterparam Cload=0.5f
reset
tran 1p 8n
meas tran tplh1 trig V(in) val=0.9 rise=1 targ V(out) val=0.9 rise=1
meas tran tphl1 trig V(in) val=0.9 fall=1 targ V(out) val=0.9 fall=1
echo "========================================"
echo "CASE 1: Slew=10ps, Cload=0.5fF"
print tplh1 tphl1

alterparam slew=10p
alterparam Cload=10f
reset
tran 1p 8n
meas tran tplh2 trig V(in) val=0.9 rise=1 targ V(out) val=0.9 rise=1
meas tran tphl2 trig V(in) val=0.9 fall=1 targ V(out) val=0.9 fall=1
echo "========================================"
echo "CASE 2: Slew=10ps, Cload=10fF"
print tplh2 tphl2

alterparam slew=10p
alterparam Cload=100f
reset
tran 1p 8n
meas tran tplh3 trig V(in) val=0.9 rise=1 targ V(out) val=0.9 rise=1
meas tran tphl3 trig V(in) val=0.9 fall=1 targ V(out) val=0.9 fall=1
echo "========================================"
echo "CASE 3: Slew=10ps, Cload=100fF"
print tplh3 tphl3

alterparam slew=100p
alterparam Cload=0.5f
reset
tran 1p 8n
meas tran tplh4 trig V(in) val=0.9 rise=1 targ V(out) val=0.9 rise=1
meas tran tphl4 trig V(in) val=0.9 fall=1 targ V(out) val=0.9 fall=1
echo "========================================"
echo "CASE 4: Slew=100ps, Cload=0.5fF"
print tplh4 tphl4

alterparam slew=100p
alterparam Cload=10f
reset
tran 1p 8n
meas tran tplh5 trig V(in) val=0.9 rise=1 targ V(out) val=0.9 rise=1
meas tran tphl5 trig V(in) val=0.9 fall=1 targ V(out) val=0.9 fall=1
echo "========================================"
echo "CASE 5: Slew=100ps, Cload=10fF"
print tplh5 tphl5

alterparam slew=100p
alterparam Cload=100f
reset
tran 1p 8n
meas tran tplh6 trig V(in) val=0.9 rise=1 targ V(out) val=0.9 rise=1
meas tran tphl6 trig V(in) val=0.9 fall=1 targ V(out) val=0.9 fall=1
echo "========================================"
echo "CASE 6: Slew=100ps, Cload=100fF"
print tplh6 tphl6

alterparam slew=1000p
alterparam Cload=0.5f
reset
tran 1p 12n
meas tran tplh7 trig V(in) val=0.9 rise=1 targ V(out) val=0.9 rise=1
meas tran tphl7 trig V(in) val=0.9 fall=1 targ V(out) val=0.9 fall=1
echo "========================================"
echo "CASE 7: Slew=1000ps, Cload=0.5fF"
print tplh7 tphl7

alterparam slew=1000p
alterparam Cload=10f
reset
tran 1p 12n
meas tran tplh8 trig V(in) val=0.9 rise=1 targ V(out) val=0.9 rise=1
meas tran tphl8 trig V(in) val=0.9 fall=1 targ V(out) val=0.9 fall=1
echo "========================================"
echo "CASE 8: Slew=1000ps, Cload=10fF"
print tplh8 tphl8

alterparam slew=1000p
alterparam Cload=100f
reset
tran 1p 12n
meas tran tplh9 trig V(in) val=0.9 rise=1 targ V(out) val=0.9 rise=1
meas tran tphl9 trig V(in) val=0.9 fall=1 targ V(out) val=0.9 fall=1
echo "========================================"
echo "CASE 9: Slew=1000ps, Cload=100fF"
print tplh9 tphl9

echo "========================================"
echo "ALL 9 CASES COMPLETE"
echo "========================================"

.endc
.end